US08084448B2
C. [2-Benzyloxy-4-(2-oxo-2,3,4,6-tetrahydro-1H-benzo[b]azepin-3-yloxy)-phenylamino]-acetic Acid Ethyl Ester
A mixture of 3-(4-amino-3-benzyloxyphenoxy)-1,3,4,5-tetrahydrobenzo[b]azepin-2-one (7.4 mmol) and ethyl glyoxylate (1.44 mL, 7.4 mmol) in THF (5 mL) is stirred at RT for 5 h. The mixture is diluted with 38 mL of EtOH/HOAc (9:1) then NaCNBH3 (0.91 g, 14 mmol) is added and stirring is continued for 18 h. The solvent is removed under reduced pressure and the residue triturated with water. The solid is purified by column chromatography using a gradient of 33-50% EtOAc/hexane as eluent to give the title compound.

reactant | 3-(4-amino-3-benzyloxyphenoxy)-1,3,4,5-tetrahydrobenzo[b]azepin-2-one | 7.4 mmol | NC1=C(C=C(OC2CCC3=C(NC2=O)C=CC=C3)C=C1)OCC1=CC=CC=C1 | C23H22N2O3
reactant | ethyl glyoxylate | 7.4 mmol, 1.44 mL | C(C=O)(=O)OCC | C4H6O3
reactant | NaCNBH3 | 14 mmol, 0.91 g | [BH3-]C#N.[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | EtOH HOAc | 38 mL | CCO.CC(=O)O
product | [2-Benzyloxy-4-(2-oxo-2,3,4,6-tetrahydro-1H-benzo[b]azepin-3-yloxy)-phenylamino]-acetic Acid Ethyl Ester | C(C)OC(CNC1=C(C=C(C=C1)OC1CC=C2C(NC1=O)=CC=CC2)OCC2=CC=CC=C2)=O | C27H28N2O5
